US07468375B2
To the solution of tert-butyl 1-cyclopropyl-3-(cyclopropylamino)-3-oxopropylcarbamate (38.10 g, 150 mmol) in dichloromethane (600 mL) and methyl alcohol (40 mL) was added 2 M solution of hydrochloric acid in diethyl ether (300 mL, 600 mmol) with an addition funnel at such a rate that the temperature of the reaction remained below 30° C. The reaction was allowed to stir at room temperature overnight. After 18 h, the reaction was complete as indicated by ELSD/MS. The reaction mixture was evaporated under reduced pressure. Diethyl ether (2×200 mL) was added to the residue, and the mixture was stirred for 15 min, and then decanted. This process was repeated to remove excess of hydrochloric acid. It was further dried in a vacuum oven overnight to afford 3-amino-N,3-dicyclopropylpropanamide hydrochloride (30 g, >100% yield).

reactant | tert-butyl 1-cyclopropyl-3-(cyclopropylamino)-3-oxopropylcarbamate | 150 mmol, 38.10 g | C1(CC1)C(CC(=O)NC1CC1)NC(OC(C)(C)C)=O | C14H24N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 600 mmol, 300 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
solvent | methyl alcohol | 40 mL | CO | CH4O
product | 3-amino-N,3-dicyclopropylpropanamide hydrochloride | 30 g, >100% yield | Cl.NC(CC(=O)NC1CC1)C1CC1 | InChI=1S/C9H16N2O.ClH/c10-8(6-1-2-6)5-9(12)11-7-3-4-7;/h6-8H,1-5,10H2,(H,11,12);1H
